US07071182B2
1-(4-nitro-phenyl)-3-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-yl]-urea
A mixture of 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine (2.0 g, 8.7 mmol) and 4-nitrophenyl isocyanate (1.5 g, 8.8 mmol) in 150 mL of THF was heated to reflux for 2 hours. The solution was cooled to room temperature and concentrated under reduced pressure. The residue was taken up in 100 mL of ethyl acetate and tritutrated to provide a precipitate which was collected filtration to provide the title compound (3.1 g, 91%). 1H NMR (300 MHz, DMSO-d6) ppm 1.64 (m, 4H), 2.45 (m, 4H), 2.86 (d, J=6.44, 2H), 4.48 (d, J=6.44, 2H), 7.37 (m, 1H), 7.63 (m, 1H), 7.70 (m, 2H), 7.90 (m, 1H), 7.99 (s, 1H), 8.19 (m, 2H), 8.89 (s, 1H), 9.43 (s, 1H); MS (DCI/NH3) m/z 395 [M+H]+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | 8.7 mmol, 2.0 g | N1(CCCC1)CCN1N=CC2=CC(=CC=C12)N | C13H18N4
reactant | 4-nitrophenyl isocyanate | 8.8 mmol, 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-(4-nitro-phenyl)-3-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-yl]-urea | 3.1 g, 91% | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C20H22N6O3
